US05068371
3-(2,4-Difluorophenyl)propanamide
27.9 g (0.15 mol) of 3-(2,4-difluorophenyl)propanoic acid are mixed in a sulfation flask with 50 ml (0.69 mol) of thionyl chloride and 0.5 ml of dimethylformamide, and the mixture is stirred at room temperature for one hour, at 50° C. for one hour and under reflux for half an hour. The excess thionyl chloride is then removed by distillation in vacuo. The orange-brown oily residue is dissolved in toluene and then cooled to -15° C. At this temperature, 7.0 g (0.41 mol) of ammonia gas are passed in over about one hour. The temperature is then allowed to rise to room temperature. The partially crystalline reaction mixture is then poured into 500 ml of ice-water. The residue is filtered, washed with a little toluene and dried in vacuo. 21.7 (78% of theory) of white crystals of melting point 107°-108° C. are obtained. After recrystallization from water, the product melts at 109°-110° C.

reactant | 3-(2,4-difluorophenyl)propanoic acid | 0.15 mol, 27.9 g | FC1=C(C=CC(=C1)F)CCC(=O)O | C9H8F2O2
reactant | thionyl chloride | 0.69 mol, 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 0.41 mol, 7.0 g | N | H3N
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 3-(2,4-Difluorophenyl)propanamide | FC1=C(C=CC(=C1)F)CCC(=O)N | C9H9F2NO
